US05705502
2.8 g (12 mmol) of 3-chloro-phenyl-guanidine nitrate and 0.5 g (12 mmol) of sodium hydroxide are added to a suspension of 2.0 g (11.7 mmol) of 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one [described in EP-A-0 233 461] in 100 ml of isobutanol and the reaction mixture is boiled under reflux for 5 hours. After cooling, the reaction product is isolated by filtration, washed with water and chromatographed (tetrahydrofuran). After crystallisation (tetrahydrofuran/diethyl ether), N-(3-chloro-phenyl)-4-pyridyl-2-pyrimidineamine is obtained; m.p. 167°-168°, Rf =0.38 (methylene chloride:methanol=9:1).

reactant | 3-chloro-phenyl-guanidine nitrate | 12 mmol, 2.8 g | [N+](=O)(O)[O-].ClC=1C=C(C=CC1)NC(=N)N
reactant | sodium hydroxide | 12 mmol, 0.5 g | [OH-].[Na+]
reactant | 3-dimethylamino-1-(4-pyridyl)-2-propen-1-one | 11.7 mmol, 2.0 g | CN(C=CC(=O)C1=CC=NC=C1)C | C10H12N2O
solvent | isobutanol | 100 ml | C(C(C)C)O | C4H10O
product | N-(3-chloro-phenyl)-4-pyridyl-2-pyrimidineamine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC=NC=C1 | C15H11ClN4
